US07560569B2
In a similar manner to Example 87, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and ethyl (5-amino-1,3,4-thiadiazole-2-carboxylate) (58.9 mg) were used to obtain (2S,4S)-1-[[N-[4-[N-(5-ethoxycarbonyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (31.9 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | ethyl (5-amino-1,3,4-thiadiazole-2-carboxylate) | 58.9 mg | NC1=NN=C(S1)C(=O)OCC | C5H7N3O2S
product | (2S,4S)-1-[[N-[4-[N-(5-ethoxycarbonyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 31.9 mg | C(C)OC(=O)C1=NN=C(S1)NC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C21H27FN6O4S
